### PR TITLE
Higher order functions

### PR DESCRIPTION
**Pull request by utkn**
This PR aims to add higher order function support. 
- A new type is added `Tp.fn`
- Functions are represented by `FuncRef`s
- A new expression is added `Expr.fn` for function idents
- The call expression `Expr.call` is updated to work with a `Tp.fn`
- Call intro rules `callDecl_intro`, `callLambda_intro`, `callTrait_intro` are updated
- Syntax is updated

### CODE REVIEW

File: Lampe/Lampe.lean [hunk 1]
```diff
@@ -9,8 +9,8 @@ nr_def simple_muts<>(x : Field) -> Field {
   y
 }
 
-example : STHoare p Γ ⟦⟧ (simple_muts.fn.body _ h![] |>.body h![x]) fun v => v = x := by
-  simp only [simple_muts]
+example : STHoare p Γ ⟦⟧ («fn#simple_muts».fn.body _ h![] |>.body h![x]) fun v => v = x := by
```
Comment (kustosz) [inline Lampe/Lampe.lean:12]: this name change is painful, makes it much worse for the user, can we work around this?

**Review by kustosz — COMMENTED** [review]
This is generally awesome, but can we get back to the original naming convention?

**Review by kustosz — APPROVED** [review]
